US04632925
Preparation of 3-[8-[4-(2,2-Diphenylethyl)-1-piperidinyl]octyl]pyridine
The title compound was prepared by the hydrogenation of 7.3 g of 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine at ambient conditions using 100 mL of ethanol and 1.5 g of 10% palladium on carbon catalyst. After filtration and evaporation, the residue was crystallized from hexane to give 6.0 g (82%) of 3-[8-[4-(2,2-diphenylethyl)-1-piperidinyl]octyl]pyridine, mp 68°-70° C. Analysis Calculated for C32H42N2 : C, 84.53: H, 9.31; N, 6.16. Found: C, 84.68; H, 9.15; N, 6.12. The fumarate salt was crystallized from acetone, mp 110°-111° C. Analysis Calculated for C32H42N2.C4H4O4 : C, 75.76; H, 8.12; N, 4.91. Found: C, 75.59; H, 8.00; N, 4.83.

reactant | 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine | 7.3 g | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C32H40N2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[8-[4-(2,2-diphenylethyl)-1-piperidinyl]octyl]pyridine | 6.0 g, 82% | C1(=CC=CC=C1)C(CC1CCN(CC1)CCCCCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C32H42N2
